US08957069B2
1-{2-[(benzyloxy)methyl]-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl}-4-(4-methoxyphenyl)piperazine
By using 2-[(benzyloxy)methyl]-5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran (690 mg, 1.84 mmol) synthesized in Reference Example 159 and 1-(4-methoxyphenyl)piperazine (707 mg, 3.68 mmol), the reaction was carried out in the same manner as Example 1 to synthesize 580 mg of the title compound (yield 65%). An oily product.

reactant | 2-[(benzyloxy)methyl]-5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran | 1.84 mmol, 690 mg | C(C1=CC=CC=C1)OCC1(OC2=C(C1)C(=C(C(=C2C)C)Br)C)C | C20H23BrO2
reactant | 1-(4-methoxyphenyl)piperazine | 3.68 mmol, 707 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-{2-[(benzyloxy)methyl]-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl}-4-(4-methoxyphenyl)piperazine | 580 mg, yield 65% | C(C1=CC=CC=C1)OCC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)C | C31H38N2O3
